US07230011B2
Benzenesulfonic acid 7-bromo-1H-indol-5-yl ester
Combine 7-bromo-5-hydroxy-1H-indole and 0.2 N NaOH (1.1 eq.) in THF. Cool to about 0° C. before adding benzenesulfonyl chloride (1.10 eq.). Allow the reaction mixture to warm to ambient temperature. After 8 hours, pour into ethyl acetate, wash with water, dry the organic layer over Na2SO4 and concentrate. Purify to give the title compound.

reactant | 7-bromo-5-hydroxy-1H-indole | BrC=1C=C(C=C2C=CNC12)O | C8H6BrNO
reactant | NaOH | 0.2 N, 1.1 eq. | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 1.10 eq. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | Benzenesulfonic acid 7-bromo-1H-indol-5-yl ester | BrC=1C=C(C=C2C=CNC12)OS(=O)(=O)C1=CC=CC=C1 | C14H10BrNO3S
